US07858623B2
A 15 mL sealed tube was charged with 7-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridine (0.113 g, 0.449 mmol), 4-amino-2-fluorophenol (0.071 g, 0.56 mmol), cesium carbonate (0.512 g, 1.57 mmol), and DMF (2.00 ml) and sealed. The reaction mixture was stirred at 90° C. for 18 hours, allowed to cool to room temperature, then diluted with chloroform (50 mL) and washed with water (50 mL), sat. aq. NaHCO3 (50 mL), and brine (50 mL). The organic layer was dried with MgSO4, filtered, and concentrated in vacuo to yield a black solid. The product was purified by silica gel chromatography eluting with 3% methanol in methylene chloride to yield 3-fluoro-4-(2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridin-7-yloxy)benzenamine (0.074 g, 48% yield) as a yellow solid.

reactant | 7-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridine | 0.449 mmol, 0.113 g | ClC1=C2C(=NC=C1)C=C(S2)C2=NC(=NO2)C | C10H6ClN3OS
reactant | 4-amino-2-fluorophenol | 0.56 mmol, 0.071 g | NC1=CC(=C(C=C1)O)F | C6H6FNO
reactant | cesium carbonate | 1.57 mmol, 0.512 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 2.00 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-fluoro-4-(2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridin-7-yloxy)benzenamine | 0.074 g, 48% yield | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)C2=NC(=NO2)C)N | C16H11FN4O2S
